US04433150
4-[2-(1-Methyl-4-Piperidyl)-Ethyl]-2-Phenyl-Quinoline
5 g of lithium aluminum hydride was progressively introduced, incrementally, in 200 ml of dry tetrahydrofuran, under an atmosphere of nitrogen. The suspension obtained is cooled to 0° C., then a solution of 20 g of 4-[2-(1-ethoxycarbonyl-4-piperidyl)-ethyl]-2-phenyl quinoline in 200 ml of tetrahydrofuran is added drop by drop, the temperature of the reaction mixture being maintained below 30° C. After 4 hours of contact at the ambient temperature, there are introduced very slowly and successively 5.85 ml of water, 4.3 ml of a 5 N aqueous solution of sodium hydroxide, then 19.5 ml of water. The mineral products are separated by filtration and washed twice with 30 ml of methylene chloride each time. The filtrates are collected, dried over magnesium sulphate, then evaporated to dryness. The residue obtained, which is constituted by the desired product, is acidified with the equivalent quantity of a solution of hydrochloric acid in ethanol. 11.1 g of 4-[2-(1 -methyl-4-piperidyl)-ethyl]-2-phenyl quinoline in the form of monohydrochloride melting at 206° C. are obtained.

reactant | lithium aluminum hydride | 5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-[2-(1-ethoxycarbonyl-4-piperidyl)-ethyl]-2-phenyl quinoline | 20 g | C(C)OC(=O)N1CCC(CC1)CCC1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C25H28N2O2
reactant | water | 5.85 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 19.5 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 4-[2-(1-Methyl-4-Piperidyl)-Ethyl]-2-Phenyl-Quinoline | CN1CCC(CC1)CCC1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C23H26N2
